US09376422B2
Step 4: Synthesis of cis and trans methyl 5-bromo-3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-bromo-2-methylbenzoate (5 g, 20.57 mmol) and tert-butyl (4-oxocyclohexyl)carbamate (5.6 g, 26.7 mmol) in methanol (50 mL), acetic acid (1.2 g, 20.57 mmol) was added and reaction stirred at room temperature for 8 h. Then sodium cyanoborohydride (1.6 g, 26.74 mmol) was added at 0° C. and reaction stirred overnight. On completion, solvent was removed under reduced pressure and crude material was purified by column chromatography twice eluting with ethyl acetate:hexane to afford (4 g, 44%) of less polar cis isomer and (3 g, 33%) of the pure more polar trans isomer.

reactant | methyl 3-amino-5-bromo-2-methylbenzoate | 20.57 mmol, 5 g | NC=1C(=C(C(=O)OC)C=C(C1)Br)C | C9H10BrNO2
reactant | tert-butyl (4-oxocyclohexyl)carbamate | 26.7 mmol, 5.6 g | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | acetic acid | 20.57 mmol, 1.2 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 26.74 mmol, 1.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | trans methyl 5-bromo-3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-methylbenzoate | BrC=1C=C(C(=C(C(=O)OC)C1)C)N[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C | C20H29BrN2O4
